US08686150B2
(c) 6-Chloro-3-methyl-1-(tetrahydro-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid ethyl ester
A mixture of 6-chloro-3-methyl-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid ethyl ester (28.5 g), 3,4-dihydro-2H-pyran (23.7 mL) and p-toluenesulfonic acid monohydrate (6.8 g) in THF (800 mL) was stirred at r.t. until the reaction was complete. The mixture was poured into water (1.5 l) and extracted with ethyle acetate (600 mL). The organic phase was dried over magnesium sulfate and concentrated in a vacuo. The crude product was purified by silica gel chromatography (heptane/ethyl acetate gradient). 37.8 g (98%) of the title compound were obtained.

reactant | 6-chloro-3-methyl-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid ethyl ester | 28.5 g | C(C)OC(=O)C=1C2=C(N=C(C1)Cl)NN=C2C | C10H10ClN3O2
reactant | 3,4-dihydro-2H-pyran | 23.7 mL | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid monohydrate | 6.8 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | 1.5 l | O | H2O
solvent | THF | 800 mL | C1CCOC1 | C4H8O
product | 6-Chloro-3-methyl-1-(tetrahydro-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid ethyl ester | 37.8 g, 98% | C(C)OC(=O)C=1C2=C(N=C(C1)Cl)N(N=C2C)C2OCCCC2 | C15H18ClN3O3
